US06569888B1
Methyl 4-Acetoxyindole-2-carboxylate
A solution of methyl 4-benzyloxyindole-2-carboxylate (48 g) in ethyl acetate (1 litre) at 50-60° C. was hydrogenated over 5%Pd-C catalyst (4.0 g) at 1 atmosphere pressure for 6 hours, until 3.7 litres of hydrogen was absorbed. The catalyst was filtered off and washed with warm ethyl acetate(100 ml). To the combined filtrates was added acetic anhydride (40 ml) and 4-dimethylaminopyridine (1.0 g), and the solution was stirred for 1 hour at 25° C. Ethanol (15 ml) was added and the solution reduced to halt volume by evaporation in vacuo, then hexane (1 litre) was added to cause crystallisation of the product as white needles (37 g, 93%). NMR d (CD3SOCD3) 2.34 (s, 3H), 3.85 (s, 3H), 6.80 (d, 1H), 7.06 (s, 1H), 7.23 (t, 1H), 7.29-7.35 (m, 1H), 12.1 (bs, 1H); M/z (−) 232 (M-H+).

reactant | methyl 4-benzyloxyindole-2-carboxylate | 48 g | C(C1=CC=CC=C1)OC1=C2C=C(NC2=CC=C1)C(=O)OC | C17H15NO3
reactant | ethyl acetate | 1 litre | C(C)(=O)OCC | C4H8O2
catalyst | Pd-C | 4.0 g | [Pd] | Pd
product | Methyl 4-Acetoxyindole-2-carboxylate | C(C)(=O)OC1=C2C=C(NC2=CC=C1)C(=O)OC | C12H11NO4
